MM3 (VOUT1 VSS net16 VSS) nmos4
MM0 (net1004 net12 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM1 (VOUT1 net1004 VDD VDD) pmos4
MM2 (net1004 net1004 VDD VDD) pmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (net1004 net1007 VSS VSS) nmos4
MM1 (net1005 net1004 VDD VDD) pmos4
MM0 (net1004 net1004 VDD VDD) pmos4
RR0 (net1007 VSS) resistor
MM2 (VB1 net12 net1007 VSS) nmos4
MM0 (net12 net1007 VSS VSS) nmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM1 (net12 VB1 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor