M5 (VOUT1 VB1 IB1 VSS) nmos4
M4 (VOUT2 VB1 IB2 VSS) nmos4
R2 (VDD VOUT1) resistor
R0 (VDD VOUT2) resistor
M0 (IB1 VIN1 IB3 VDD) pmos4
M2 (IB2 VIN2 IB3 VDD) pmos4