M5 (VOUT2 VB1 net016 VSS) nmos4
M4 (VOUT1 VB1 net018 VSS) nmos4
M3 (net016 VB4 VSS VSS) nmos4
M1 (net018 VB4 VSS VSS) nmos4
M10 (net019 VIN1 IB1 VSS) nmos4
M11 (net017 VIN2 IB1 VSS) nmos4
R3 (VOUT1 VIN1) resistor
R2 (VIN2 VOUT2) resistor
R1 (VIN2 net013) resistor
R0 (VIN1 net014) resistor
M9 (net017 VB3 VDD VDD) pmos4
M8 (net019 VB3 VDD VDD) pmos4
M7 (VOUT2 VB2 net017 VDD) pmos4
M6 (VOUT1 VB2 net019 VDD) pmos4
C1 (net013 VDD) capacitor
C0 (net014 VDD) capacitor